US07169817B2
Step F: Acetic Acid 2-acetoxymethyl-2-acetylamino-4-[4′-(5-propyl-isoxazol-3-yl)biphenyl-4-yl]butyl ester
A mixture of acetic acid 2-acetoxymethyl-2-acetylamino-4-[4′-(hydroxyimino-methyl)biphenyl-4-yl]butyl ester (0.2 mmol), NaOCl (2 mmol), Et3N (3 mmol) and pentyne (40 mmol) in DCM (4 mL) and H2O (1 mL) is stirred at room temperature for 12 h. It is diluted with DCM (5 mL) and H2O (10 mL) and the organic phase is washed with brine and dried over Na2SO4. After concentrating, the crude product is purified by column chromatography using EtOAc/hexane (1/1) to give the desired product as a white solid. MS: (ES+): 507.2 (M+1)+.

reactant | acetic acid 2-acetoxymethyl-2-acetylamino-4-[4′-(hydroxyimino-methyl)biphenyl-4-yl]butyl ester | 0.2 mmol | C(C)(=O)OCC(COC(C)=O)(CCC1=CC=C(C=C1)C1=CC=C(C=C1)C=NO)NC(C)=O | C24H28N2O6
reactant | NaOCl | 2 mmol | [O-]Cl.[Na+]
reactant | Et3N | 3 mmol | CCN(CC)CC | C6H15N
reactant | pentyne | 40 mmol | C#CCCC | C5H8
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 1 mL | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 10 mL | O | H2O
product | Acetic Acid 2-acetoxymethyl-2-acetylamino-4-[4′-(5-propyl-isoxazol-3-yl)biphenyl-4-yl]butyl ester | C(C)(=O)OCC(COC(C)=O)(CCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=NOC(=C1)CCC)NC(C)=O | C29H34N2O6
